US06166006
To a mixture of nitric acid (0.4 ml) and concentrated sulfuric acid (3 ml) was added benzyldiethylphosphine oxide (1.05 g) at 0° C., and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was added to ice-water, and ammonia solution was added to the solution to neutralize the solution, which was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated. The residue was separated and purified with column chromatography (ethyl acetate/ethanol=3:2→1:1) to give 4-nitrobenzyldiethylphosphine oxide (518 mg) as pale yellow crystals.

reactant | nitric acid | 0.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzyldiethylphosphine oxide | 1.05 g | C(C1=CC=CC=C1)P(CC)(CC)=O | C11H17OP
reactant | ammonia | N | H3N
product | 4-nitrobenzyldiethylphosphine oxide | 518 mg | [N+](=O)([O-])C1=CC=C(CP(CC)(CC)=O)C=C1 | C11H16NO3P
